US08604069B2
(A-82-1) 4-Methyl-1-piperidin-1-ylpentan-1-one
4-Methylvaleric acid (238 g) and DMF (833 mL) were mixed. After an addition of piperidine (233 mL), HOBt.H2O (361 g) and WSC.HCl (452 g) to the mixture at ice temperature, the resulting mixture was stirred at RT overnight. To the reaction was added water (1000 mL) at ice temperature and the resulting mixture was extracted with toluene (500 mL×2). The organic layer was washed with aqueous 10 w/v % sodium carbonate (500 mL+300 mL) and water (500 mL×2). The organic layer was concentrated in vacuo to give the title compound (414.29 g) as a crude product.

reactant | 4-Methylvaleric acid | 238 g | CC(CCC(=O)O)C | C6H12O2
reactant | piperidine | 233 mL | N1CCCCC1 | C5H11N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 452 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 1000 mL | O | H2O
solvent | H2O | 361 g | O | H2O
solvent | DMF | 833 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-1-piperidin-1-ylpentan-1-one | 414.29 g | CC(CCC(=O)N1CCCCC1)C | C11H21NO
